US05254558
A solution of 4-fluorobenzonitrile (50 g) in tetrahydrofuran (300 mL) and ethanol (60.5 mL) at 0° C. was saturated with anhydrous hydrogen chloride gas and the resulting solution was allowed to stand overnight. The solvent was evaporated and the resulting solid was collected and washed with ether to provide ethyl 4-fluorobenzimidate hydrochloride as a white solid (20 g); NMR: 8.27 (m,2), 7.51 (m,2), 4.63 (q,2), 1.47 (t,3).

reactant | 4-fluorobenzonitrile | 50 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | hydrogen chloride | Cl | ClH
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | ethanol | 60.5 mL | C(C)O | C2H6O
product | ethyl 4-fluorobenzimidate hydrochloride | 20 g | Cl.FC1=CC=C(C(OCC)=N)C=C1 | InChI=1S/C9H10FNO.ClH/c1-2-12-9(11)7-3-5-8(10)6-4-7;/h3-6,11H,2H2,1H3;1H
